US07572801B2
A solution of 6-phenylhexanoic acid [5581-75-9] (1.45 g, 7.6 mmol) in CH2Cl2 (15 ml) was treated with oxalyl chloride (0.72 ml, 8.6 mmol) in the presence of a catalytic amount of DMF. The solution was stirred for 2 h at ambient temperature. The solvent was evaporated to give crude 6-phenylhexanoic acid chloride, which was used without further purification in the next step.

reactant | 6-phenylhexanoic acid | 7.6 mmol, 1.45 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | oxalyl chloride | 8.6 mmol, 0.72 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 6-phenylhexanoic acid chloride | C1(=CC=CC=C1)CCCCCC(=O)Cl | C12H15ClO
